US06316477B1
Bis{5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)pyrazol-4-yl}disulfide
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)-4-thiocyanatopyrazole 1.00 g (2.37 mmol) was dissolved in 20 ml of dry methanol, and then 210 mg (5.00 mmol) of 90% sodium borohydride was added at 0° C. After the mixture was was stirred at 0° C. for 3.5 hrs, the reaction mixture was poured into 80 ml iced water, and then the precipitate was collected by filtration. After drying in vacuo, the resulting yellow crystal was recrystalized from ethyl acetate-n-hexane mixed solvent to obtain 512 mg (0.65 mmol) of the title compound as a yellow crystal. Yield 55%.

reactant | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)-4-thiocyanatopyrazole | 2.37 mmol, 1.00 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=NOC=N1)SC#N | C13H5Cl2F3N6OS
reactant | sodium borohydride | 5.00 mmol, 210 mg | [BH4-].[Na+]
reactant | water | 80 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | Bis{5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)pyrazol-4-yl}disulfide | 0.65 mmol, 512 mg, Yield 55% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=NOC=N1)SSC=1C(=NN(C1N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=NOC=N1 | C24H10Cl4F6N10O2S2
